US06846819B1
a) 1,2-Dimethylindole-3-carboxaldehyde
A solution of POCl3 (7.0 mL, 75 mmole) in DMF (100 mL) was stirred for 5 minutes at 0° C., then 1,2-dimethylindole (10.0 g, 69 mmole) was added in one portion. The reaction was allowed to warm to RT and stirred for 4 h. The thick slurry was poured into ice water (300 mL) and the flask was rinsed with additional water (50 mL). The aqueous mixture was basified with a solution of NaOH (13.2 g, 330 mmole) in H2O (50 mL), and the thick suspension was filtered to collect the solid. This was washed with water and dried under vacuum to give the title compound (11.59 g, 97%) as an off-white solid: 1H NMR (400 MHz, CDCl3) δ 10.07 (s,1H), 8.09 (d, J=7.9 Hz,1H), 7.54 (d, J=7.6 Hz, 1H), 7.21 (dt, 2H), 3.73 (s, 3H), 2.70 (s, 3H).

reactant | POCl3 | 75 mmole, 7.0 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 1,2-dimethylindole | 69 mmole, 10.0 g | CN1C(=CC2=CC=CC=C12)C | C10H11N
reactant | NaOH | 330 mmole, 13.2 g | [OH-].[Na+]
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | H2O | 50 mL | O | H2O
product | 1,2-Dimethylindole-3-carboxaldehyde | 11.59 g, 97% | CN1C(=C(C2=CC=CC=C12)C=O)C | C11H11NO
